data/mechanism_extracts/GreenChem/10.1039_D3GC02701E_sup_1.json
{"doi": "10.1039_D3GC02701E_sup_1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical methoxylation/dimerization of styrenes with methanol via anodic oxidation proceeding through a radical-cation/radical intermediate", "mechanism_family": ["radical_cation", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "anodic oxidation of styrene to a styryl radical cation (onset ~+1.713 V vs Ag/AgCl), which is intercepted by methanol to give a benzylic carbon radical that couples to deliver the 1,4-dimethoxy product", "key_intermediates": [{"name": "styrene radical cation", "smiles": "[CH2]=[CH+]c1ccccc1", "role": "transient"}, {"name": "β-methoxy benzylic carbon radical (III)", "smiles": "COC(c1ccccc1)C[CH2]", "role": "reactive"}, {"name": "1,4-dimethoxy-1,4-diphenylbutane-type product (2)", "smiles": "COC(c1ccccc1)CCC(OC)c1ccccc1", "role": "reactive"}, {"name": "BHT-trapped radical adduct (V)", "smiles": null, "role": "off_pathway"}], "electron_flow": "The anode performs single-electron oxidation of styrene (Eonset ≈ +1.713 V) to give a styryl radical cation; methanol adds to the radical cation generating a β-methoxy benzylic carbon radical, which is intercepted (radical coupling/further oxidation) en route to the dimethoxylated coupling product.", "rate_determining_step": "anodic SET oxidation of the styrene to its radical cation", "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Product 2 was not detected (N.D.); BHT-trapped adduct V containing the β-methoxy benzylic fragment was detected by HRMS, supporting a carbon-radical intermediate"}, {"name": "styrene (1)", "smiles": "C=Cc1ccccc1", "purpose": "redox_probe", "observation": "CV showed an oxidation onset at +1.713 V vs Ag/AgCl, consistent with direct anodic oxidation of styrene"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_BHT", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Mechanism inferred from CV (Figure S3) and BHT trapping (Scheme S1) shown in the SI. The BHT adduct corresponds to the β-methoxy benzylic radical, indicating MeOH addition occurs before the radical-coupling step; no KIE, DFT, or EPR evidence is presented on these pages."}
